US04990515
1-Cyclopropyl-8-(3,4-dimethyl-1-piperazinyl)- 7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid is prepared under the conditions of Reference Example 21 but starting from 1.9 g of 1-cyclopropyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid, 1.38 cm3 of formic acid and 3.30 cm3 of a 30% aqueous solution of formaldehyde. After recrystallizing crude product from 50 cm3 of ethanol, 1.3 g of 1the cyclopropyl-8-(3,4-dimethyl-1-piperazinyl)-7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid melting at 219° C.

reactant | 1-cyclopropyl-7-fluoro-8-(3-methyl-1-piperazinyl)-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.9 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(NCC3)C)=O)C(=O)O | C21H21FN4O3
reactant | formaldehyde | C=O | CH2O
solvent | formic acid | 1.38 cm3 | C(=O)O | CH2O2
product | 1-Cyclopropyl-8-(3,4-dimethyl-1-piperazinyl)- 7-fluoro-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)N3CC(N(CC3)C)C)=O)C(=O)O | C22H23FN4O3
